US04045438
A mixture of p-azidomethylphenylacetyl chloride (0.6 g) and 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (0.6 g) in 250 ml of ethyl acetate was refluxed for 50 minutes after which the solvent was removed under vacuum yielding an oily residue which was purified by chromatography using 60 g of silica gel and benzene-acetone as the eluant to give 7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid. M.P. 154°-155° C.

reactant | p-azidomethylphenylacetyl chloride | 0.6 g | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)Cl | C9H8ClN3O
reactant | 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.6 g | NC1C2SCC(=C(N2C1=O)C(=O)O)C | C8H10N2O3S
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C | C17H17N5O4S
